US07687490B2
c) Sodium (1R,5S,6S)-6-((1R)-1-hydroxyethyl)-2-[[(Z)-2-(4-hydroxymethylthiazol-5-yl)ethen-1-yl]thio]-1-methyl-1-carbapen-2-em-3-carboxylate
10% Pd—C (hydrous, water content 53%) (1.42 g) was added to a solution of 40 ml of a 1/15 M sodium phosphate buffer solution (pH 6.8) of 957 mg of 4-nitrobenzyl (1R,5S,6S)-6-((1R)-1-hydroxyethyl)-2-[[(Z)-2-(4-hydroxymethylthiazol-5-yl)ethen-1-yl]thio]-1-methyl-1-carbapen-2-em-3-carboxylate in 40 ml of THF, and the mixture was stirred under a hydrogen atmosphere for 1.5 hr. The 10% Pd—C was removed by filtration and was washed with water. The filtrate was adjusted to pH 6.6 by the addition of saturated sodium bicarbonate water, followed by washing with 40 ml of ethyl acetate. The aqueous layer was concentrated to about 5 ml, and the concentrate was purified by column chromatography (2% methanol-water) on Cosmosil 40C18-PREP to give 360 mg of the title compound.

reactant | sodium phosphate | 15 M, pH 6.8 | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
reactant | 4-nitrobenzyl (1R,5S,6S)-6-((1R)-1-hydroxyethyl)-2-[[(Z)-2-(4-hydroxymethylthiazol-5-yl)ethen-1-yl]thio]-1-methyl-1-carbapen-2-em-3-carboxylate | 957 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)S\C=C/C2=C(N=CS2)CO)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C23H23N3O7S2
solvent | THF | 40 ml | C1CCOC1 | C4H8O
catalyst | Pd—C | 1.42 g | [Pd] | Pd
product | Sodium (1R,5S,6S)-6-((1R)-1-hydroxyethyl)-2-[[(Z)-2-(4-hydroxymethylthiazol-5-yl)ethen-1-yl]thio]-1-methyl-1-carbapen-2-em-3-carboxylate | 360 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)S\C=C/C2=C(N=CS2)CO)C(=O)[O-])C1=O.[Na+] | InChI=1S/C16H18N2O5S2.Na/c1-7-12-11(8(2)20)15(21)18(12)13(16(22)23)14(7)24-4-3-10-9(5-19)17-6-25-10;/h3-4,6-8,11-12,19-20H,5H2,1-2H3,(H,22,23);/q;+1/p-1/b4-3-;/t7-,8-,11-,12-;/m1./s1
